US06506797B1
Benzyl 5-formyl-2-methoxybenzoate (1.10 g, 4.07 mmol) and 30 ml of methanol were mixed and sodium borohydride (155 mg, 4.10 mmol) was added little by little under stirring and cooling with ice. After stirring for 2 hours under cooling with ice, the reaction mixture was poured into ice water and made acidic with 1 mol/l hydrochloric acid, which was extracted with ethyl acetate. The extract was washed with water and with brine, then dried over anhydrous sodium sulfate and concentrated to obtain 1.11 g (99%) of benzyl 5-hydroxymethyl-2-methoxybenzoate (without purifying further, this compound was used for the next reaction).

reactant | Benzyl 5-formyl-2-methoxybenzoate | 4.07 mmol, 1.10 g | C(=O)C=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C16H14O4
reactant | sodium borohydride | 4.10 mmol, 155 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 mol/l | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | benzyl 5-hydroxymethyl-2-methoxybenzoate | 1.11 g, 99% | OCC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C16H16O4
